US06096743
A mixture of 2.19 g (8.55 mmol) of 5-(3-fluoro-6-nitrophenyl)aminovaleric acid, 100 ml of 2-propanol and 5 ml of 4N hydrochloric acid-dioxane was subjected to heating under reflux for 2 hours. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column (developing solvent: hexane:ethyl acetate=9:1 to 6:1) to give 2.55 g (stoichiometric) of isopropyl 5-(3-fluoro-6-nitrophenyl)aminovalerate.

reactant | 5-(3-fluoro-6-nitrophenyl)aminovaleric acid | 8.55 mmol, 2.19 g | FC=1C=C(C(=CC1)[N+](=O)[O-])NCCCCC(=O)O | C11H13FN2O4
reactant | hydrochloric acid dioxane | 4N, 5 ml | Cl.O1CCOCC1
reactant | 2-propanol | 100 ml | CC(C)O | C3H8O
product | isopropyl 5-(3-fluoro-6-nitrophenyl)aminovalerate | 2.55 g | FC=1C=C(C(=CC1)[N+](=O)[O-])NCCCCC(=O)OC(C)C | C14H19FN2O4
